US05250679
To a magnetically stirred solution of 2-(3-hydroxypropyl)-4-benzyl-8-iodo-2,3,4,5-tetrahydro-1H-5-oxa-2-benzazepin-1-one (0.75 grams, 1.7 mmol) in 5 mL dimethylformamide at room temperature was added a solution of pyridinium dichromate (2.58 grams, 6.86 mmol) in 5 mL dimethylformamide. The reaction mixture was stirred overnight, diluted with 75 mL water, washed 3×75 mL diethyl ether, made acidic to a pH of 2 with conc. HCl and extracted 3×75 mL diethyl ether. The combined organics were extracted 3×40 mL 1N sodium hydroxide. The combined aqueous layers were acidified to a pH of 2 with canc HCl and extracted 3×50 mL diethyl ether. These ether layers were combined and dried over magnesium sulfate, filtered, and concentrated in vacuo to yield 0.557 grams (73%) of 2-(2-carboxyethyl)-4-benzyl-8-iodo-2,3,4,5-tetrahydro-1H-5-oxa-2-benzazepin-1-one. 1H NMR (CDCl3, dTMS) 8.07 (1H, d, 4JHH =2 Hz, C9-H), 7.69 (1H, dd, 4JHH =2 Hz, 3JHH =8 Hz, C7-H), 7.4-7.2 (5H, m, C6H5), 6.75 (1H, d, 3JHH =8 Hz, C6-H), 4.75 (1H, m, ArOCH), 3.89 (1H, dt, 2JHH =14 Hz, 3JHH =6 Hz, NCHHCH2CO2), 3.69 (1H, dt, 2JHH =14 Hz, 3JHH =6 Hz, NCHHCH2CO2), 3.44 (2H, d, 3JHH =3 Hz, CH2Ph), 3.07 (1H, dd, 2JHH =14 Hz, 3JHH =7 Hz, C3-H), 2.8-2.7 (3H, m, C3-H, CH2CO2). 13C NMR (CDCl3) 176.1, 167.6, 164.4, 152.8, 141.7, 139.5, 136.4, 129.4, 129.1, 128.9, 128.8, 127.0, 124.7, 86.7, 84.7, 51.4, 45.0, 38.8, 33.0.

reactant | 2-(3-hydroxypropyl)-4-benzyl-8-iodo-2,3,4,5-tetrahydro-1H-5-oxa-2-benzazepin-1-one | 1.7 mmol, 0.75 grams | OCCCN1C(C2=C(OC(C1)CC1=CC=CC=C1)C=CC(=C2)I)=O | C19H20INO3
reactant | pyridinium dichromate | 6.86 mmol, 2.58 grams | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 75 mL | O | H2O
product | 2-(2-carboxyethyl)-4-benzyl-8-iodo-2,3,4,5-tetrahydro-1H-5-oxa-2-benzazepin-1-one | 0.557 grams, 73% | C(=O)(O)CCN1C(C2=C(OC(C1)CC1=CC=CC=C1)C=CC(=C2)I)=O | C19H18INO4
